US04045576
Sodium 2-amino-3-benzoylphenylacetate Dihydrate.
A mixture of 2.6 g. of (2-amino-3-benzoylphenyl)acetic acid and sodium hydroxide (0.1 mole) in 25 ml. of water was stirred for approximately 10 min. and then heated to reflux under nitrogen. The reaction mixture was then cooled and filtered. The filtrate was evaporated down to approximately 2 ml., refiltered and a large volume of acetone added to the filtrate to precipitate the product as bright yellow flakes. Yield 70%.

reactant | (2-amino-3-benzoylphenyl)acetic acid | NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)O | C15H13NO3
reactant | sodium hydroxide | 0.1 mole | [OH-].[Na+]
solvent | water | O | H2O
product | Sodium 2-amino-3-benzoylphenylacetate Dihydrate | Yield 70% | O.O.NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)CC(=O)[O-].[Na+] | InChI=1S/C15H13NO3.Na.2H2O/c16-14-11(9-13(17)18)7-4-8-12(14)15(19)10-5-2-1-3-6-10;;;/h1-8H,9,16H2,(H,17,18);;2*1H2/q;+1;;/p-1
